US07888364B2
A mixture of 500 mg of 2-chloro-4-florobenzonitrile, 821 mg of 2-pyrrolidinone and 3 g of cesium carbonate in 5 mL of DMF was heated to 100° C. in a sealed microwave reactor for 15 min. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (20-80% ethyl acetate/hexane) to afford 2-chloro-4-(2-oxopyrrolidin-1-yl)benzonitrile. 890 mg of 2-chloro-4-(2-oxopyrrolidin-1-yl)benzonitrile was reacted via Procedure T to give 2-chloro-4-(2-oxopyrrolidin-1-yl)benzoic acid. 80 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(2-oxopyrrolidin-1-yl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxopyrrolidin-1-yl)benzamide. MS (Q1) 426.2 (M)+.

reactant | 2-chloro-4-florobenzonitrile | 500 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | 2-pyrrolidinone | 821 mg | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-(2-oxopyrrolidin-1-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(CCC1)=O | C11H9ClN2O
